US07625908B2
2-Chloro-4-[(5-fluoroquinazolin-4-yl)amino]phenol was reacted with N-methylaminoethanol using an analogous process to that described in Example 3 for the preparation of 2-methyl-4-({5-[2-(methylamino)ethoxy]quinazolin-4-yl}amino)phenol, to give 2-Chloro-4-({5-[2-(methylamino)ethoxy]quinazolin-4-yl}amino)phenol in 96% yield; NMR spectrum (DMSO-d6) 2.41 (s, 3H), 3.05 (t, 2H), 4.36 (t, 2H), 6.97 (d, 1H), 7.12 (d, 1H), 7.31 (d, 1H), 7.63 (1H, dd), 7.70 (t, 1H), 7.96 (s, 1H), 8.47 (s, 1H) 10.47 (bs, 1H); Mass spectrum MH+ 345.

reactant | 2-Chloro-4-[(5-fluoroquinazolin-4-yl)amino]phenol | ClC1=C(C=CC(=C1)NC1=NC=NC2=CC=CC(=C12)F)O | C14H9ClFN3O
reactant | N-methylaminoethanol | CNC(C)O | C3H9NO
reactant | 2-methyl-4-({5-[2-(methylamino)ethoxy]quinazolin-4-yl}amino)phenol | CC1=C(C=CC(=C1)NC1=NC=NC2=CC=CC(=C12)OCCNC)O | C18H20N4O2
product | 2-Chloro-4-({5-[2-(methylamino)ethoxy]quinazolin-4-yl}amino)phenol | 96% yield | ClC1=C(C=CC(=C1)NC1=NC=NC2=CC=CC(=C12)OCCNC)O | C17H17ClN4O2
